US05929072
1-(2-Chloroethyl)-3,4-dihydro-3-(1-methylethyl)-6-nitro-1H-2,1,3-benzothiadiazine-2,2-dioxide(1.67 g, 0.005 mol) prepared from 3,4-dihydro-3-(1-methylethyl)-6-nitro-1H-2,1,3-benzothiadiazine-2,2-dioxide (prepared from 4-nitroaniline and isopropyl sulfamoyl chloride by methods described above was dissolved in absolute ethanol (50 ml) and hydrogenated at 60 psi in the presence of 5% palladium on charcoal (0.2 g). After 1 hour and no further hydrogen uptake, the catalyst was filtered, washed with ethanol and the solution evaporated to dryness giving 6-amino-1-(2-chloroethyl)-3,4-dihydro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide.

reactant | 1-(2-Chloroethyl)-3,4-dihydro-3-(1-methylethyl)-6-nitro-1H-2,1,3-benzothiadiazine-2,2-dioxide | 0.005 mol, 1.67 g | ClCCN1S(N(CC2=C1C=CC(=C2)[N+](=O)[O-])C(C)C)(=O)=O | C12H16ClN3O4S
reactant | 3,4-dihydro-3-(1-methylethyl)-6-nitro-1H-2,1,3-benzothiadiazine-2,2-dioxide | CC(C)N1S(NC2=C(C1)C=C(C=C2)[N+](=O)[O-])(=O)=O | C10H13N3O4S
reactant | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | isopropyl sulfamoyl chloride | C(C)(C)NS(=O)(=O)Cl | C3H8ClNO2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
product | 6-amino-1-(2-chloroethyl)-3,4-dihydro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | NC=1C=CC2=C(CN(S(N2CCCl)(=O)=O)C(C)C)C1 | C12H18ClN3O2S
